US09422281B2
A 250-mL round-bottom flask was charged with cyclopropylmethanol (1.90 g, 26.3 mmol), triphosgene (1.50 g, 5.28 mmol), N,N-diisopropylethylamine (4.0 mL, 23 mmol) and 1,2-dichloroethane (100 mL). The resulting solution was stirred for 1 h at 50° C. 1-[(2S)-6-Bromo-2-methyl-1,2,3,4-tetrahydroquinoxalin-1-yl]ethan-1-one (710 mg, 2.64 mmol) and N,N-diisopropylethylamine (4.0 mL, 23 mmol) in 1,2-dichloroethane (20 mL) were added, and the resulting solution stirred overnight at 50° C. After cooling to room temperature, the reaction mixture was poured into water (30 mL). The aqueous layer was separated and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via column chromatography on silica gel (eluting with 1:12, ethyl acetate/petroleum ether) to afford cyclopropylmethyl (3S)-4-acetyl-7-bromo-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate in (850 mg, 88%) as a yellow solid. MS (ESI, pos. ion) m/z 367, 369 [M+1]+.

reactant | cyclopropylmethanol | 26.3 mmol, 1.90 g | C1(CC1)CO | C4H8O
reactant | triphosgene | 5.28 mmol, 1.50 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N,N-diisopropylethylamine | 23 mmol, 4.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[(2S)-6-Bromo-2-methyl-1,2,3,4-tetrahydroquinoxalin-1-yl]ethan-1-one | 2.64 mmol, 710 mg | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | N,N-diisopropylethylamine | 23 mmol, 4.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | water | 30 mL | O | H2O
product | cyclopropylmethyl (3S)-4-acetyl-7-bromo-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OCC1CC1)C | C16H19BrN2O3
